2135-01-19 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   repeat Lactate 1.2
   Advanced diet to clears
   GPCs in blood
   2nd set of cultures ordered
   Anxiety overnight; gave ativan 0.5mg with improvement
   Also c/o TMJ pain; has mouth guard at home; contact husband today
 PHERESIS CATHETER - START [**2135-1-18**] 05:27 PM
   Allergies:
   Betadine (Topical) (Povidone-Iodine)
   Anaphylaxis;
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Headache;
   Gabapentin
   delirium;
   Cilostazol
   Rash;
   Colestipol
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-18**] 08:55 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2135-1-19**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-19**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (96.9
   HR: 98 (95 - 115) bpm
   BP: 143/90(103) {114/65(79) - 150/108(114)} mmHg
   RR: 20 (13 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,796 mL
                                                                    927 mL
   PO:
             TF:
   IVF:
                                                                    796 mL
                                                                    927 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    700 mL
   Urine:
                                                                  1,720 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,626 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy tube without
   edema/drainage
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Tunneled line (femoral) in place, mild erythema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   151 K/uL
   12.4 g/dL
   108 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   10 mg/dL
   106 mEq/L
   139 mEq/L
   36.5 %
   2.9 K/uL
        [image002.jpg]
                             [**2135-1-19**]  05:33 AM
   WBC
   2.9
   Hct
   36.5
   Plt
   151
   Cr
   0.7
   Glucose
   108
   Other labs: Lactic Acid:1.2 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   51 yo female s/p renal tx X3 (most recent CRT [**9-29**]) and panc X2 (most
   recent [**2-27**]), severe PVD, HTN presents with rigors/fevers and mental
   status changes.
   # Sepsis- Patient presented with fever, tachycardia and hypotension.
   Pt with GPC growing in blood. Likely source is tunneled fem line.
   Patient does have history of VRE. Pt received vanco/imipenem.  Pt with
   immunosuppressed.  Ideally, pt would have line holiday, but pt with
   difficult access. MRV showed unable to access IJ or subclavian.  Ostomy
   further complicates fem line.  Currently hemodynamically stable
   - Will continue to treat with Imipenem/Vancomycin for broad coverage
   given h/o VRE and immunosuppression (day #1 is [**1-18**])
   - ID consult
   -f/u renal transplant recs
   - will need to discuss with Renal transplant,  regarding possible
   access options regarding removing fem line and alternate access. Will
   need additional PIV
   - TTE
   - Continue home steroids for now - received stress dose in ED
   - Goal MAP>65
   - F/U Urine culture
   - F/U Blood cultures and sensi
   - Follow up final read of CT abdomen, renal transplant ultrasound, CXR
   and CT head
   - Check vanc trough after 3rd dose (day #1 [**1-18**])
   .
   # Mental Status change- Patient with acute MS changes although events
   not clear at this time. Per her husband, pt has altered MS every time
   her BP drops.  BP was low on EMS arrival. Pt does have labile BPs and
   takes both BB and fludrocortisone prn to manage her pressures. It is
   possible that infection precipitation hypotension causing the MS
   changes. Currently MS improving and appears to be mentating well.
   - CT at this point unrevealing for ICH or edema.
   - Toxic metabolic work up in place as above.
   - Follow up final CT read
   .
   #Apnea-Unclear if truly apneic; appears to be breathing shallow on exam
   -Monitor for now
   .
   #S/P Kidney/Pancreas Transplant-Pts creatinine slightly above baseline
   on admission; likely prerenal given hypotension/sepsis
   -Continue immunosuppressives Azathioprine, Prednisone, Tacrolimus 3mg
   [**Hospital1 **] (sublingual per transplant; crush meds)
   -Tacrolimus level in AM
   - restart Bactrim ppx
   -Transplant Surgery/Medicine following
   .
   #h/o Hypertension/Orthostatic currently hemodynamically stable
   -Will plan for metoprolol and Fludrocortisone prn
   .
   #CAD- continue aspirin
   .
   # Blindness [**1-25**] DMI: stable, She continued her home drops and may need
   to bring in from home given non-formulary
   - Cyclosporine 0.05% gtts; one in each eye QID
   - Acular 0.5% drops 1 gtt os q3D
   - Loteprednol Etabonate 0.2% drops 1 gtt ou [**Hospital1 **]
 ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2135-1-18**] 05:26 PM
   Pheresis Catheter - [**2135-1-18**] 05:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-01-19 09:15:00 Physician Attending Progress Note
Chief Complaint: fever, rigors, hypotension, and bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Blood cultures + for GPC, speciation and sensitivies pending.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Betadine (Topical) (Povidone-Iodine)
   Anaphylaxis;
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Headache;
   Gabapentin
   delirium;
   Cilostazol
   Rash;
   Colestipol
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-18**] 08:55 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2135-1-19**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2135-1-19**] 08:00 AM
   Famotidine (Pepcid) - [**2135-1-19**] 08:00 AM
   Other medications:
   vancomycin and imipenem, klonopin, azathioprine, sodium bicarb,
   prednisone 5mg daily
   famotidine, folic acid, flovent, venlafaxine, ASA 325, heparin s/c,
   tacrolius, restasis, despiramine, creon
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-19**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 104 (95 - 115) bpm
   BP: 179/94(114) {114/65(79) - 179/108(114)} mmHg
   RR: 17 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,796 mL
                                                                  1,317 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                    796 mL
                                                                  1,077 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    795 mL
   Urine:
                                                                  1,720 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,626 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: None
   FiO2: 2L
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, eye edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, ostomy site within normal limits
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, emaciated
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   12.4 g/dL
   151 K/uL
   108 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   10 mg/dL
   106 mEq/L
   139 mEq/L
   36.5 %
   2.9 K/uL
        [image002.jpg]
                             [**2135-1-19**]  05:33 AM
   WBC
   2.9
   Hct
   36.5
   Plt
   151
   Cr
   0.7
   Glucose
   108
   Other labs: Lactic Acid:1.2 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Fluid analysis / Other labs: tacro level pending
   U/A negative
   Imaging: CXR negative
   Head CT negative
   Microbiology: blood cultures GPC
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION: GPC bacteremia, continue imipenem
   and vanco as she seems to have improved. Has a history of VRE
   bacteremia will monitor carefully for recurrent fever and broaden to
   [**Last Name (LF) 1829**], [**First Name3 (LF) 178**] follow up senses and likely narrow coverage as
   appropriate. ID consult for long term management per renal team. Will
   discuss with renal team and IR alternative access options and timing of
   removal of this line. For now will call IV team to place another
   peripheral if possible. Will obtain TTE. WIl need to consider prolonged
   course of therapy given her UE clots and questio of septic
   thrombophlebitis.
 ANXIETY: benzodiazpines, reassurance and support
 BP: stable currently, will resume metoprolol short acting.
   Rest of plan per HO team
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2135-1-18**] 05:26 PM
   Pheresis Catheter - [**2135-1-18**] 05:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   ------ Protected Section ------
   I have seen and examined the patient and agree substantially with the
   assessment and plan with the following modifications/emphasis:
   Overnight, patient improved significantly
   T 36.4  P 104  BP 179/90  RR 18  Sat: 100%
   Gen: Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Labs: As above
   Assessment:
   1) Sepsis
 gram positive cocci in the blood -> likely from the line
   though patient is a very difficult access problem with clots throughout
   the subclavian and internal jugular systems
   2) S/P kidney/pancreas transplant
   Plan:
   1) Continue antibiotics including vancomycin
   2) MRV to assess venous access for left femoral area
   3) Transplant/nephro following
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2135-1-19**] 17:16 ------

2135-01-20 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**1-19**]
   - Per line team, no MRV, will get IR attempt with US/Fluoro
   - Called out to FA10 only, will go under [**Doctor Last Name 699**]
   -TTE
   -ID consulted; vancomycin only
 BLOOD CULTURED - At [**2135-1-19**] 10:30 AM
   drawn from pheresis catheter
 TRANSTHORACIC ECHO - At [**2135-1-19**] 01:30 PM
   The left atrium and right atrium are normal in cavity size. A
   relatively fixed 1.4cm echodensity is seen in the body of the right
   atrium (?catheter, ?mass). There is mild symmetric left ventricular
   hypertrophy with normal cavity size and regional/global systolic
   function (LVEF>55%). There is no left ventricular outflow obstruction
   at rest or with Valsalva. The diameters of aorta at the sinus,
   ascending and arch levels are normal. The aortic valve leaflets (3) are
   moderately thickened. There is a minimally increased gradient
   consistent with minimal aortic valve stenosis. No aortic regurgitation
   is seen. The mitral valve appears structurally normal with trivial
   mitral regurgitation. The pulmonary artery systolic pressure could not
   be determined. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2134-1-26**], the right
   atrial "echogenic mass" is new. Is there a femoral line (could inject
   agitated saline to confirm this is a catheter). If not, a thoracic CT
   or MR [**First Name (Titles) **] [**Last Name (Titles) 1613**] may better define the abnormality.
   Allergies:
   Betadine (Topical) (Povidone-Iodine)
   Anaphylaxis;
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Headache;
   Gabapentin
   delirium;
   Cilostazol
   Rash;
   Colestipol
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-1-19**] 05:00 PM
   Famotidine (Pepcid) - [**2135-1-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-20**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 85 (82 - 109) bpm
   BP: 130/78(91) {126/66(81) - 179/95(114)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,953 mL
                                                                    960 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  2,993 mL
                                                                    960 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    850 mL
   Urine:
                                                                  2,425 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,153 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy tube without
   edema/drainage
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Tunneled left line (femoral) in place,
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   165 K/uL
   12.0 g/dL
   126 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   8 mg/dL
   110 mEq/L
   141 mEq/L
   36.5 %
   2.5 K/uL
                             [**2135-1-19**]  05:33 AM
                             [**2135-1-20**]  05:24 AM
   WBC
   2.9
   2.5
   Hct
   36.5
   36.5
   Plt
   151
   165
   Cr
   0.7
   0.7
   Glucose
   108
   126
   Other labs: PT / PTT / INR:11.6/28.6/1.0, ALT / AST:16/29, Alk Phos / T
   Bili:96/0.3, Amylase / Lipase:20/13, Differential-Neuts:51.0 %,
   Lymph:34.3 %, Mono:7.8 %, Eos:6.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:180 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   51 yo female s/p renal tx X3 (most recent CRT [**9-29**]) and panc X2 (most
   recent [**2-27**]), severe PVD, HTN presents with rigors/fevers and mental
   status changes.
   # Sepsis- Patient presented with fever, tachycardia and hypotension.
   Pt with GPC growing in blood. Likely source is tunneled fem line.
   Patient does have history of VRE. Pt received vanco/imipenem.  Pt with
   immunosuppressed.  Ideally, pt would have line holiday, but pt with
   difficult access. MRV showed unable to access IJ or subclavian.  Ostomy
   further complicates fem line.  Currently hemodynamically stable . ID
   consulted and recommended vancomycin
   - Continue vancomycin Day #3 (first dose 1/26)
   -f/u renal transplant recs
   - Plan for removal of R. tunneled line; replace with left line via IR
   today
   - TTE results concerning for new atrial echogenic mass
   - F/U culture/sensetivities
   - Follow up final read of CT abdomen, renal transplant ultrasound, CXR
   and CT head
   .
   # Mental Status change- Patient with acute MS changes although events
   not clear at this time. Per her husband, pt has altered MS every time
   her BP drops.  BP was low on EMS arrival. Pt does have labile BPs and
   takes both BB and fludrocortisone prn to manage her pressures. It is
   possible that infection precipitation hypotension causing the MS
   changes. Currently MS improved.
   .
   #Apnea-Unclear if truly apneic; appears to be breathing shallow on exam
   -Monitor for now
   .
   #S/P Kidney/Pancreas Transplant-Pts creatinine slightly above baseline
   on admission; likely prerenal given hypotension/sepsis
   -Continue immunosuppressives Azathioprine, Prednisone, Tacrolimus 3mg
   [**Hospital1 **] (sublingual per transplant; crush meds)
   -Tacrolimus level in AM
   - Continue Bactrim ppx
   -Transplant Surgery/Medicine following
   .
   #h/o Hypertension/Orthostatic currently hemodynamically stable
   -Continue metoprolol and Fludrocortisone prn
   .
   #CAD- continue aspirin
   .
   # Blindness [**1-25**] DMI: stable, She continued her home drops and may need
   to bring in from home given non-formulary
   - Cyclosporine 0.05% gtts; one in each eye QID
   - Acular 0.5% drops 1 gtt os q3D
   - Loteprednol Etabonate 0.2% drops 1 gtt ou [**Hospital1 **]
 ANXIETY
   -resumed home Klonopin [**Hospital1 **]
   -Ambien qhs prn
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2135-1-18**] 05:27 PM
   -Plan for IR to place new tunneled line today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  none needed
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Called out to floor, awaiting bed

2135-01-20 12:04:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2135-1-19**] 10:30 AM
   drawn from pheresis catheter
 TRANSTHORACIC ECHO - At [**2135-1-19**] 01:30 PM showed mass in the RA,
   indeterminate.
   Allergies:
   Betadine (Topical) (Povidone-Iodine)
   Anaphylaxis;
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Headache;
   Gabapentin
   delirium;
   Cilostazol
   Rash;
   Colestipol
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-1-19**] 05:00 PM
   Famotidine (Pepcid) - [**2135-1-19**] 08:00 PM
   Other medications:
   Ambien, heparin flush, klonopin, metroplol, bactrim, desipramine,
   tacrolimus, vanco 750 q12, prednisone 5, effexor, creon, asa 325,
   albuterol inhaler, heparin s/c, azathromycin, mucomyst.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-20**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 95 (82 - 109) bpm
   BP: 159/93(109) {126/66(81) - 169/95(110)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,953 mL
                                                                  1,515 mL
   PO:
                                                                    960 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  2,993 mL
                                                                  1,485 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,050 mL
   Urine:
                                                                  2,425 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,153 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   165 K/uL
   126 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   8 mg/dL
   110 mEq/L
   141 mEq/L
   36.5 %
   2.5 K/uL
        [image002.jpg]
                             [**2135-1-19**]  05:33 AM
                             [**2135-1-20**]  05:24 AM
   WBC
   2.9
   2.5
   Hct
   36.5
   36.5
   Plt
   151
   165
   Cr
   0.7
   0.7
   Glucose
   108
   126
   Other labs: PT / PTT / INR:11.6/28.6/1.0, ALT / AST:16/29, Alk Phos / T
   Bili:96/0.3, Amylase / Lipase:20/13, Differential-Neuts:51.0 %,
   Lymph:34.3 %, Mono:7.8 %, Eos:6.6 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:180 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Microbiology: Micro catheter tip pending.
   Blood culture with GPC in pairs and clusters no new data.
   Assessment and Plan
RA mass: will discuss with echocardiogaphy best modality for further
   imaging, will discuss with renal re potential need for contrast.
 ANXIETY: improved
 SEPSIS WITHOUT ORGAN DYSFUNCTION: on vancomycin with improved, line
   was changed today. f/u culture data
 Transplant: f/u tacro level.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2135-1-18**] 05:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient and agree with the assessment and
   plan as above with the following modifications/emphasis:
   Overnight, had catheter placed left groin and removed right groin
   cath.  Also had ECHO with ? right atrial mass v thrombus
   Vitals as above
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: no edema
   Labs: as above
   Assessment/Plan:
   1)       Sepsis
 likely line as source
 now removed -> follow
   cultures
   2)       Repeat ECHO now that line removed and can better characterize
   whether mass v thrombus in R atrium
   Addendum: Repeat ECHO confirms thrombus.  Begin heparin.
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2135-1-21**] 07:50 AM ------

2135-01-21 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt [**Name (NI) **] showed ? right atrial clot secondary to tunneled line,
   repeated [**Name (NI) **] and showed smaller right atrial clot and IVC clot.
   Patient started on heparin gtt and coumadin.
   - only 1 lumen on line, so have to hold heparin to give vancomycin
   - BCx growing Coag neg staph, will follow-up with ID regarding
   treatment in the AM
 PHERESIS CATHETER - STOP [**2135-1-20**] 10:30 AM
 TUNNELED (HICKMAN) LINE - START [**2135-1-20**] 12:32 PM
   placed in IR
 CALLED OUT
   Allergies:
   Betadine (Topical) (Povidone-Iodine)
   Anaphylaxis;
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Headache;
   Gabapentin
   delirium;
   Cilostazol
   Rash;
   Colestipol
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-20**] 08:00 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2135-1-20**] 05:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-21**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 89 (87 - 114) bpm
   BP: 138/73(89) {121/67(78) - 159/93(109)} mmHg
   RR: 13 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 59.2 kg
             Total In:
                                                                  2,756 mL
                                                                     59 mL
   PO:
                                                                    990 mL
             TF:
   IVF:
                                                                  1,766 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    285 mL
   Urine:
                                                                  1,225 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,131 mL
                                                                   -226 mL
   Respiratory support
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   10.9 g/dL
   126 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   8 mg/dL
   110 mEq/L
   141 mEq/L
   33.8 %
   2.6 K/uL
        [image002.jpg]
                             [**2135-1-19**]  05:33 AM
                             [**2135-1-20**]  05:24 AM
                             [**2135-1-21**]  06:09 AM
   WBC
   2.9
   2.5
   2.6
   Hct
   36.5
   36.5
   33.8
   Plt
   151
   165
   140
   Cr
   0.7
   0.7
   Glucose
   108
   126
   Other labs: PT / PTT / INR:11.6/138.7/1.0, ALT / AST:16/29, Alk Phos /
   T Bili:96/0.3, Amylase / Lipase:20/13, Differential-Neuts:54.2 %,
   Lymph:34.1 %, Mono:5.7 %, Eos:5.4 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.5 g/dL, LDH:180 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   51 yo female s/p renal tx X3 (most recent CRT [**9-29**]) and panc X2 (most
   recent [**2-27**]), severe PVD, HTN presents with rigors/fevers and mental
   status changes.
   # Sepsis- Patient presented with fever, tachycardia and hypotension.
   Pt with GPC growing in blood. Likely source is tunneled fem line.
   Patient does have history of VRE. Pt received vanco/imipenem.  Pt with
   immunosuppressed.  Ideally, pt would have line holiday, but pt with
   difficult access. MRV showed unable to access IJ or subclavian.
   Patient received new tunneled line to left groin [**1-20**].  New culture
   data overnight with 1 bottle coag negative staph.
   - Continue vancomycin Day #4 (first dose 1/26)
   -f/u renal transplant recs
   - [**Month/Year (2) **] results concerning for new atrial echogenic mass- repeat [**Month/Year (2) **]
   showed R. atrial clot ; need to discuss with ID duration of antibiotics
   - F/U culture/sensetivities
   #Right Atrial [**Name (NI) 11485**] Unclear if this is pure thrombus or infected;
   heparin gtt and coumadin started overnight
   .
   # Mental Status change- Patient with acute MS changes although events
   not clear at this time. Per her husband, pt has altered MS every time
   her BP drops.  BP was low on EMS arrival. Pt does have labile BPs and
   takes both BB and fludrocortisone prn to manage her pressures. It is
   possible that infection precipitation hypotension causing the MS
   changes. Currently MS improved.
   .
   #Apnea-Unclear if truly apneic; appears to be breathing shallow on exam
   -Monitor for now
   .
   #S/P Kidney/Pancreas Transplant-Pts creatinine slightly above baseline
   on admission; likely prerenal given hypotension/sepsis
   -Continue immunosuppressives Azathioprine, Prednisone, Tacrolimus 3mg
   [**Hospital1 **] (sublingual per transplant; crush meds)
   -Tacrolimus level daily
   - Continue Bactrim ppx
   -Transplant Surgery/Medicine following
   .
   #h/o Hypertension/Orthostatic currently hemodynamically stable
   -Continue metoprolol and Fludrocortisone prn
   .
   #CAD- continue aspirin, BB
   .
   # Blindness [**1-25**] DMI: stable, She continued her home drops and may need
   to bring in from home given non-formulary
   - Cyclosporine 0.05% gtts; one in each eye QID
   - Acular 0.5% drops 1 gtt os q3D
   - Loteprednol Etabonate 0.2% drops 1 gtt ou [**Hospital1 **]
 ANXIETY
   -resumed home Klonopin [**Hospital1 **]
   -Ambien qhs prn
 TACHYCARDIA, OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   R atrial clot
 ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2135-1-20**] 12:32 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Called out to floor

2135-01-21 10:30:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PHERESIS CATHETER - STOP [**2135-1-20**] 10:30 AM
 TUNNELED (HICKMAN) LINE - START [**2135-1-20**] 12:32 PM
   placed in IR
 CALLED OUT
   Blood culture with coag negative staph
   Allergies:
   Betadine (Topical) (Povidone-Iodine)
   Anaphylaxis;
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Headache;
   Gabapentin
   delirium;
   Cilostazol
   Rash;
   Colestipol
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-21**] 08:26 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2135-1-20**] 05:52 PM
   Other medications:
   azathioprine, sodium bicarb, famotidine, folic acid, advair,
   fluticasone, effexor, ASA 325 daily, eye drops, prograf 3mg [**Hospital1 **],
   konopin, bactrim, ambien 5, creon, coumadin, heparin drip, metoprolol
   12.5 [**Hospital1 **]. oxycodone.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-21**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 104 (87 - 114) bpm
   BP: 176/94(115) {121/67(78) - 176/94(115)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60 kg (admission): 59.2 kg
             Total In:
                                                                  2,756 mL
                                                                     76 mL
   PO:
                                                                    990 mL
             TF:
   IVF:
                                                                  1,766 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    645 mL
   Urine:
                                                                  1,225 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,131 mL
                                                                   -569 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   140 K/uL
   108 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   7 mg/dL
   111 mEq/L
   142 mEq/L
   33.8 %
   2.6 K/uL
        [image002.jpg]
                             [**2135-1-19**]  05:33 AM
                             [**2135-1-20**]  05:24 AM
                             [**2135-1-21**]  06:09 AM
   WBC
   2.9
   2.5
   2.6
   Hct
   36.5
   36.5
   33.8
   Plt
   151
   165
   140
   Cr
   0.7
   0.7
   0.8
   Glucose
   108
   126
   108
   Other labs: PT / PTT / INR:12.3/67.8/1.0, ALT / AST:18/28, Alk Phos / T
   Bili:86/0.3, Amylase / Lipase:20/13, Differential-Neuts:54.2 %,
   Lymph:34.1 %, Mono:5.7 %, Eos:5.4 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.4 g/dL, LDH:184 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Microbiology: micro coag negative staph
   Assessment and Plan
 TACHYCARDIA, OTHER: resume home toprol and florinef
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   R atrial clot: on heparin to coumadin bridge.
 ANXIETY: continue supporitive care.
 SEPSIS WITHOUT ORGAN DYSFUNCTION: will likely need prolonge course of
   vanco given RA and IVC clot, will discuss w ID. Will follow up coag
   negative staph senses.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2135-1-20**] 12:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient and agree with the assessment and
   plan as above with the following modifications/emphasis:
   Overnight, ECHO showed blood clot in right atrium
   Vitals as above
   Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: no edema
   Labs: as above
   Assessment:
   1)       Sepsis
 staph
   2)       Right atrial clot
   3)       S/p transplant
   Plan:
   1)       Continue antibiotics
   2)       Heparin for atrial clot -> need to arrange someone to follow
   this, likely cardiology -> discuss with transplant
   3)       To floor when bed available
   Time Spent: 20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2135-1-21**] 04:59 PM ------

2135-01-22 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   -ID: continue vanc; trough elevated 22; changed to 1g q24 HRs(recheck
   trough in AM:); plan for 4-6 weeks vanc
   -Transplant recs: no new recs; Prograf level goal [**6-30**]
   -Culture sensetivities: sensetive to vancomyin, R to Oxacillin
   Allergies:
   Betadine (Topical) (Povidone-Iodine)
   Anaphylaxis;
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Headache;
   Gabapentin
   delirium;
   Cilostazol
   Rash;
   Colestipol
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-21**] 08:26 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-1-21**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-22**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 89 (84 - 114) bpm
   BP: 135/77(93) {121/60(66) - 176/95(115)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 59.2 kg
             Total In:
                                                                  1,512 mL
                                                                     54 mL
   PO:
                                                                  1,320 mL
             TF:
   IVF:
                                                                    192 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    600 mL
   Urine:
                                                                  1,875 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,063 mL
                                                                   -546 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   10.9 g/dL
   108 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   7 mg/dL
   111 mEq/L
   142 mEq/L
   33.8 %
   2.6 K/uL
        [image002.jpg]
                             [**2135-1-19**]  05:33 AM
                             [**2135-1-20**]  05:24 AM
                             [**2135-1-21**]  06:09 AM
   WBC
   2.9
   2.5
   2.6
   Hct
   36.5
   36.5
   33.8
   Plt
   151
   165
   140
   Cr
   0.7
   0.7
   0.8
   Glucose
   108
   126
   108
   Other labs: PT / PTT / INR:12.3/79.0/1.0, ALT / AST:18/28, Alk Phos / T
   Bili:86/0.3, Amylase / Lipase:20/13, Differential-Neuts:54.2 %,
   Lymph:34.1 %, Mono:5.7 %, Eos:5.4 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.4 g/dL, LDH:184 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   51 yo female s/p renal tx X3 (most recent CRT [**9-29**]) and panc X2 (most
   recent [**2-27**]), severe PVD, HTN presents with rigors/fevers and mental
   status changes.
   # Sepsis- Patient presented with fever, tachycardia and hypotension.
   Pt with coag negative staph growing in blood. Likely source is tunneled
   fem line.  Pt is on vancomycin .  Pt with immunosuppressed.  Ideally,
   pt would have line holiday, but pt with difficult access. MRV showed
   unable to access IJ or subclavian.  Patient received new tunneled line
   to left groin [**1-20**].  New culture data overnight with 1 bottle coag
   negative staph.
   - Continue vancomycin Day #6 (first dose 1/26) planed for 6 week
   course, but will f/u ID and sensi
   -f/u renal transplant recs
   - F/U culture/sensetivities- sensetive to vanc
   #Right Atrial Clot- Repeat TTE shows right atrial clot. She was started
   on heparin gtt and coumadin.
   - cont heparin gtt and coumadin until INR therapeutic (today INR 1.2)
   -Daily coags
   .
   #S/P Kidney/Pancreas Transplant-Creatinine at baseline
   -Continue immunosuppressives Azathioprine, Prednisone, Tacrolimus
   (sublingual per transplant; crush meds)
   -Tacrolimus level daily- goal [**6-30**]; dropped to 2mg [**Hospital1 **] per renal
   - Continue Bactrim ppx
   -Transplant Surgery/Medicine following
   .
   #h/o Hypertension/Orthostatic currently hemodynamically stable
   Continue Toprol 50mg qam and 75mg qpm and Fludrocortisone prn
   .
   #CAD- continue aspirin, BB
   .
   # Blindness [**1-25**] DMI: stable, She continued her home drops and may need
   to bring in from home given non-formulary
   - Cyclosporine 0.05% gtts; one in each eye QID
   - Acular 0.5% drops 1 gtt os q3D
   - Loteprednol Etabonate 0.2% drops 1 gtt ou [**Hospital1 **]
 ANXIETY
   -resumed home Klonopin [**Hospital1 **]
   -Ambien qhs prn
 TACHYCARDIA, OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   R atrial clot
 ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2135-1-20**] 12:32 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:call out to floor

2135-01-22 10:16:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 CALLED OUT
   Vancotrough elevated, dose decreased. Prograf goal [**6-30**]. Tacro dose
   decreased to 2 [**Hospital1 **], yesterday.
   Allergies:
   Betadine (Topical) (Povidone-Iodine)
   Anaphylaxis;
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Headache;
   Gabapentin
   delirium;
   Cilostazol
   Rash;
   Colestipol
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-22**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   immuran, sodium bicarb, prednisone, famotidine, folic acid, fluiticase,
   effexor, asa 325, restasis, desipramine, klonopin, bactrim, ambien,
   creon, coumadin, heparin iv 800 an hour, fludricort, lopressor, toprol
   xl, ipratropium, asetlin, vanco iv 1g iv q24, tacrolimus.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-22**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 96 (84 - 114) bpm
   BP: 160/90(108) {121/60(66) - 175/95(111)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 59.2 kg
             Total In:
                                                                  1,512 mL
                                                                    272 mL
   PO:
                                                                  1,320 mL
             TF:
   IVF:
                                                                    192 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                  1,500 mL
   Urine:
                                                                  1,875 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,063 mL
                                                                 -1,228 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, groin line C/D/I
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   168 K/uL
   105 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   8 mg/dL
   110 mEq/L
   142 mEq/L
   35.3 %
   2.7 K/uL
        [image002.jpg]
                             [**2135-1-19**]  05:33 AM
                             [**2135-1-20**]  05:24 AM
                             [**2135-1-21**]  06:09 AM
                             [**2135-1-22**]  06:04 AM
   WBC
   2.9
   2.5
   2.6
   2.7
   Hct
   36.5
   36.5
   33.8
   35.3
   Plt
   151
   165
   140
   168
   Cr
   0.7
   0.7
   0.8
   0.8
   Glucose
   108
   126
   108
   105
   Other labs: PT / PTT / INR:13.0/82.0/1.1, ALT / AST:15/25, Alk Phos / T
   Bili:89/0.3, Amylase / Lipase:20/13, Differential-Neuts:54.7 %,
   Lymph:32.8 %, Mono:6.0 %, Eos:6.1 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.3 g/dL, LDH:173 IU/L, Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.7
   mg/dL
   Imaging: none
   Microbiology: VSCNS.
   Assessment and Plan
 TACHYCARDIA, OTHER: improved on toprol.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   R atrial clot
 ANXIETY: stable on clonazapam.
 SEPSIS WITHOUT ORGAN DYSFUNCTION: vanco for coag negative staph x
   6weeks.
 HTN: continue to monitor, hold fludricort for SBP>150.continue
   toprol.,
RA clot: heparin for 6months at least, will need follow up with
   cardiology. change heparin iv to lovenox.
Renal transplant: on tacro, dose reduced, needs follow up level in
   2days from her dose change.
   Dispo: will contact case management for ? discharge and set up VNA.
   ICU Care
   Nutrition:  regular
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2135-1-20**] 12:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Well nourished, No acute distress
   Normocephalic
   RRR
   Lungs CTA
   Ext no edema
 TACHYCARDIA, OTHER:
   -stable on toprol
 R atrial clot
   -concern for septic thrombophlebitis
   -heparin
   -vanc
 ANXIETY:
   -clonazapam.
 SEPSIS
   -vanco for coag negative staph x 6weeks
 HTN:
Renal transplant:
   -tacro
   -tx service following
    Remainder of plan per resident & fellow notes
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2135-1-22**] 14:57 ------